US06150352
Step 3.1C 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-2,5-dioxoimidazolidin- 1-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (53 mg in 2 mL dry methylene chloride) at 0° C. was added phosgene (0.077 mL of a 1.93 M solution in toluene) followed by 0.016 mL of pyridine and the mixture stirred for 1 hour at 0° C. At this time, 70 mg of sarcosine methyl ester hydrochloride was added and the mixture allowed to warm to room temperature. After 20 hours, the mixture was diluted with ethyl acetate (15 mL) and the reaction quenched by the addition of 10% citric acid. The organic portion was concentrated in vacuo to provide the crude title compound.

reactant | 2-{2-[6-amino-7-chloro-3-(3,5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 2 mL, 53 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N)Cl)=O)C1=CC(=CC(=C1)C)C | C29H36ClN3O4
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | pyridine | 0.016 mL | N1=CC=CC=C1 | C5H5N
reactant | sarcosine methyl ester hydrochloride | 70 mg | Cl.COC(CNC)=O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-methyl-2,5-dioxoimidazolidin- 1-yl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N1C(N(CC1=O)C)=O)Cl)=O)C1=CC(=CC(=C1)C)C | C33H39ClN4O6
